US06956049B1
Cinnamamide (2.0 g, 14 mmol), chloroacetone (0.93 mL, 16 mmol), and K2CO3 (940 mg, 6.8 mmol) were combined under argon and the mixture was heated in a 120° C. oil bath. The reaction mixture solidified and stirring stopped upon heating. After 16 h, the cooled reaction mixture was quenched by the addition of water (20 mL) and then diluted with ethyl acetate (100 mL). The organic phase was dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography eluting with 90:10 hexane:ethyl acetate. The product that was obtained (280 mg) showed some close running impurities by thin layer chromatography (TLC). The material was further purified by preparative TLC via multiple elutions with 95:5 hexane:ethyl acetate. Isolation of the middle of the main band afforded 4-methyl-2-[(E)-2-phenylethenyl]-1,3-oxazole (47.0 mg, 2% yield) as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 7.53-7.32 (m, 7H), 6.91 (d, J=16.4 Hz, 1H), 2.21 (s, 3H). MS (ESI) 185.7 (M++H).

reactant | Cinnamamide | 14 mmol, 2.0 g | C(C=CC1=CC=CC=C1)(=O)N | C9H9NO
reactant | chloroacetone | 16 mmol, 0.93 mL | ClCC(C)=O | C3H5ClO
reactant | K2CO3 | 6.8 mmol, 940 mg | C(=O)([O-])[O-].[K+].[K+]
product | 4-methyl-2-[(E)-2-phenylethenyl]-1,3-oxazole | 47.0 mg, 2% yield | CC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C12H11NO
